US07208517B1
Phenyl-t-butylnitrosoamine
Phenyl-t-butylamine (6 g, 0.04 mol) was treated with conc.HCl (5 ml) and a solution of NaNO2(6.4 g, 2.4 eq.) in 20 ml of water was added slowly. The resulting mixture was stirred for 2 hr at r.t. to produce an oily layer which was extracted with EtOAc, washed with brine, and dried over Na2SO4.Yield 6 g (85%). This nitrosoamine was used for the next step without further purification.

reactant | Phenyl-t-butylamine | 0.04 mol, 6 g | C1(=CC=CC=C1)NC(C)(C)C | C10H15N
reactant | HCl | 5 ml | Cl | ClH
reactant | NaNO2 | 6.4 g, 2.4 eq. | N(=O)[O-].[Na+]
solvent | water | 20 ml | O | H2O
product | Phenyl-t-butylnitrosoamine | C1(=CC=CC=C1)N(N=O)C(C)(C)C | C10H14N2O
